US06849622B2
Methanesulfonyl chloride (3.65 ml) was added to a methylene chloride (50 ml) solution containing N-formylpiperazine (5.08 g) and triethylamine (6.85 ml) under ice-cooling, and the mixture was stirred at room temperature for 18 hours to undergo reaction, thereby obtaining 1-formyl-4-methanesulfonylpiperazine. This compound was acid-treated with hydrochloric acid to obtain 1-methanesulfonylpiperazine.hydrochloride. Also, 1-(phenylsulfonyl)piperazine.hydrochloride was obtained in the same manner as mentioned above by using the corresponding starting material.

reactant | Methanesulfonyl chloride | 3.65 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-formylpiperazine | 5.08 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 1-formyl-4-methanesulfonylpiperazine | C(=O)N1CCN(CC1)S(=O)(=O)C | C6H12N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 6.85 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-methanesulfonylpiperazine.hydrochloride | Cl.CS(=O)(=O)N1CCNCC1 | InChI=1S/C5H12N2O2S.ClH/c1-10(8,9)7-4-2-6-3-5-7;/h6H,2-5H2,1H3;1H
